US07737135B2
a) 4-bromo-1-(methylthio)-2-(trifluoromethyl)-benzene
A mixture of sodium thiomethoxide (317 mg) and 5-bromo-2-fluorobenzotrifluoride (1.0 g) in DMF (4 ml) was heated at 50° C. for 1 h then poured into water and extracted with isohexane. The organics were washed with brine, dried and concentrated in vacuo to give the sub-title compound (762 mg).

reactant | sodium thiomethoxide | 317 mg | C[S-].[Na+]
reactant | 5-bromo-2-fluorobenzotrifluoride | 1.0 g | BrC=1C=CC(=C(C1)C(F)(F)F)F | C7H3BrF4
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-bromo-1-(methylthio)-2-(trifluoromethyl)-benzene | 762 mg | BrC1=CC(=C(C=C1)SC)C(F)(F)F | C8H6BrF3S
